US05773448
3-Benzyl-1-(2-hydrox-1-ethyl)-3-methylindol-2(3H)-one:
Prepared from 3-benzyl-3-methylindol-2(3H)-one and 2-(2-chloroethoxy)tetrahydro-2H-pyran.

reactant | 3-benzyl-3-methylindol-2(3H)-one | C(C1=CC=CC=C1)C1(C(NC2=CC=CC=C12)=O)C | C16H15NO
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 3-Benzyl-1-(2-hydrox-1-ethyl)-3-methylindol-2(3H)-one | C(C1=CC=CC=C1)C1(C(N(C2=CC=CC=C12)CCO)=O)C | C18H19NO2
